US05410065
Preparation of N-(2,6-Difluorophenyl)-5-formylamino-1,2,4-triazole-3-sulfonamide (Formula I, R=H, W and X= F, and Y and Z=H)
To a mixture of 1.3 g (10 mmol) of 2,6-difluoroaniline in 4 ml of pyridine was added 1.94 g (9.2 mmol) of 5-formylamino-3-chlorosulfonyl-1,2,4-triazole over a period of 5 minutes. The mixture was heated with stirring to 70° C. for 4 hours. It was then cooled and dispersed between 25 ml of 1N aqueous sodium hydroxide and 50 ml of chloroform. The aqueous layer was acidified with aqueous hydrochloric acid and filtered. The solids collected were dried to obtain 1.67 g (60 percent of theory) of the title compound, m.p. 258°-260° C. The infrared spectrum was consistent, with the assigned structure.

reactant | 2,6-difluoroaniline | 10 mmol, 1.3 g | FC1=C(N)C(=CC=C1)F | C6H5F2N
reactant | 5-formylamino-3-chlorosulfonyl-1,2,4-triazole | 9.2 mmol, 1.94 g | C(=O)NC1=NC(=NN1)S(=O)(=O)Cl | C3H3ClN4O3S
reactant | sodium hydroxide | 1N, 25 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 4 ml | N1=CC=CC=C1 | C5H5N
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(2,6-Difluorophenyl)-5-formylamino-1,2,4-triazole-3-sulfonamide | FC1=C(C(=CC=C1)F)NS(=O)(=O)C1=NNC(=N1)NC=O | C9H7F2N5O3S
